Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril / Toprol XL
 
Attending: ___.
 
Chief Complaint:
Palpitations and dizziness
 
Major Surgical or Invasive Procedure:
___ Placement of dual chamber pacemaker

 
History of Present Illness:
Mr. ___ is a ___ gentleman with a PMH notable for 
paroxysmal atrial fibrillation (on apixaban) who presented to 
___ with palpitations and dizziness.

The patient has a history of poorly tolerated paroxysmal atrial 
fibrillation for which a rhythm strategy was pursue the last 
time he was in clinic. He was started on flecainide 100 mg BID 
in ___ with planned cardioversion in ___. However, the 
patient arrived in sinus bradycardia, and was discharged with 
diltiazem 30 mg BID and flecainide.

He presented to ___ on ___ and was noted to be in atrial 
flutter with heart rates varying between ___ to 120s and 
occasional pauses up to 3.9 seconds. Flecainide was stopped on 
presentation, and he was admitted to the ICU for monitoring. 
Patient received apixaban, flecanide and diltiazem were held. 
Overnight, he had pauses up to 6 seconds, though reportedly 
asymptomatic. After discussion with his outpatient cardiologist, 
Dr. ___, the patient was transferred to ___.

On the floor, patient states he feels well. Last episode of 
palpitations and dizziness around noon today. Patient denies 
triggers to episodes of palpitations. He has not had fevers, 
chills, chest pain, or dyspnea.

REVIEW OF SYSTEMS:
Positive per HPI.
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, or syncope.
On further review of systems, denies fevers or chills. All of 
the other review of systems were negative.

 
Past Medical History:
- Atrial fibrillation with a strong vagal trigger
- Hypertension
- Resection of squamous cell skin cancers
- Cataract surgery

 
Social History:
___
Family History:
Father passed away suddenly at the age of ___, no autopsy 
performed.

 
Physical Exam:
VS: T 97.8  BP 128/68  HR 56  RR 16  O2 SAT 99RA
GENERAL: Well developed, well nourished man in NAD. Oriented x3. 
Mood, affect appropriate.
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
NECK: Supple. JVP of 3 cm above clavicle at 45 degrees
CARDIAC: Regular rate and irregular rhythm. Normal S1, S2. No 
murmurs, rubs, or gallops.
LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. No crackles, wheezes or 
rhonchi.
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.
SKIN: No significant skin lesions or rashes.
PULSES: Distal pulses palpable and symmetric.

 
Pertinent Results:
ADMISSION LABS:
===============
___ 07:00PM   ___ PTT-32.9 ___
___ 07:00PM   PLT COUNT-224
___ 07:00PM   WBC-7.4 RBC-4.61 HGB-15.4 HCT-43.6 MCV-95 
MCH-33.4* MCHC-35.3 RDW-12.0 RDWSD-41.4
___ 07:00PM   CALCIUM-8.9 PHOSPHATE-2.6* MAGNESIUM-2.2
___ 07:00PM   estGFR-Using this
___ 07:00PM   GLUCOSE-98 UREA N-17 CREAT-0.9 SODIUM-138 
POTASSIUM-4.1 CHLORIDE-104 TOTAL CO2-25 ANION GAP-13

DISCHARGE LABS:
===============
___ 07:30AM BLOOD WBC-8.7 RBC-4.57* Hgb-14.9 Hct-43.2 
MCV-95 MCH-32.6* MCHC-34.5 RDW-12.1 RDWSD-41.8 Plt ___
___ 07:30AM BLOOD Glucose-99 UreaN-16 Creat-0.9 Na-138 
K-4.2 Cl-104 HCO3-25 AnGap-13
___ 07:30AM BLOOD Calcium-8.9 Phos-3.3 Mg-2.1

RADIOLOGY:
==========
___ CHEST (PA & LAT)
FINDINGS:  
A left chest pacemaker and leads are in satisfactory position 
terminating 
within the right atrium and ventricle.  The lungs are well 
inflated and clear. 
The cardiomediastinal silhouette, hilar contours, and pleural 
surfaces are 
normal.  There is no pleural effusion or pneumothorax.  
Degenerative changes are seen at the thoracic spine.  
IMPRESSION:  
No pneumothorax.  Appropriate lead placement. 

 
Brief Hospital Course:
Mr. ___ is a ___ gentleman with a PMH notable for 
paroxysmal atrial fibrillation (on apixaban) who presented with 
palpitations and dizziness, found to be in atrial fibrillation 
with symptomatic pauses and alternating bradycardia with 
tachycardia, now s/p dual chamber pacemaker placement on 
___. During this admission he was started on sotalol on 
___, EKG QTc 401. After the pacemaker placement, he was A-V 
paced for most of the time. He received post procedure 
antibiotics prophylaxis with vancomycin for 1 day and cephalexin 
for 2 days after discharge.

#Atrial Fibrillation | Sick Sinus Syndrome
The patient has a history of poorly tolerated paroxysmal atrial 
fibrillation for which a rhythm strategy was pursued the last 
time he was in clinic. He was started on flecainide 100 mg BID 
in ___ with planned cardioversion in ___. However, the 
patient arrived in sinus bradycardia, and was discharged with 
diltiazem 30 mg BID and flecainide. He presented to ___ 
___ on ___ and was noted to be in atrial flutter with 
heart rates varying between ___ to 120s and occasional pauses up 
to 3.9 seconds. Flecainide was stopped on presentation, and he 
was admitted to the ICU for monitoring. Patient received 
apixaban, flecanide and diltiazem were held. Overnight, he had 
pauses up to 6 seconds, though reportedly asymptomatic. After 
discussion with his outpatient cardiologist, Dr. ___ 
___, the patient was transferred to ___.

During his hospital admission, patient's telemetry showed 
symptomatic conversion pauses and he was alternating between 
fast and slow rhythm. He was continued on his home apixaban for 
anticoagulation. Patient went to EP ___, and a left sided dual 
chamber pacemaker was placed. He was started on Sotalol on ___, 
follow up EKG showed no prolongation of QTc. Post procedure, 
patient received antibiotics for three days, he got vancomycin 
while in house, and once discharged, plan to switch to Keflex 
___ TID.

TRANSITIONAL ISSUES
[ ] Follow up in device clinic in 1 week
[ ] Follow up with his cardiologist, Dr. ___, in ___ weeks
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 5 mg PO BID 
2. Diltiazem 30 mg PO BID 
3. Flecainide Acetate 100 mg PO Q12H 

 
Discharge Medications:
1. Apixaban 5 mg PO BID 
2. OxyCODONE (Immediate Release) 2.5-5 mg PO Q6H:PRN for severe 
pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*12 Tablet Refills:*0
3. Sotalol 120 mg PO BID 
RX *sotalol [Betapace] 120 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*2
4. Cephalexin 500 mg PO Q8H 
RX *cephalexin 500 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*6 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
- Atrial fibrillation (Regularized to atrial flutter with 
flecainide)
- Sick sinus syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital for palpitations and 
dizziness.  You were found to have an abnormal heart rhythm 
called atrial fibrillation. Your heart was also found to pause 
for a few seconds at a time, and also beat faster and then 
slower than normal. To help prevent having too slow of a heart 
rate, a pacemaker was placed. In addition, we started a new 
medication called sotalol to keep your heart in a normal rhythm 
and to prevent your heart rate from going too fast.

Please do not perform any heavy lifting or raise your arm above 
your shoulder level until you see Dr. ___ until 6 weeks 
after you leave the hospital.

We are also sending you with 2 days of antibiotics to prevent 
any infections that may occur after the pacemaker placement.

It was a pleasure to care for you. We wish you the best of 
heart!

Your ___ Cardiac Care Team
 
Followup Instructions:
___